US09303035B2
(8R,10R)-10-(5-Chlorofuran-2-yl)-8-(hydroxymethyl)-1,3-dimethyl-5-phenyl-7,8,9,10-tetrahydropyrazino[1′,2′:1,2]pyrrolo[3,4-d]pyrimidine-2,4(1H,3H)-dione or
Sodium borohydride (0.234 g, 6.20 mmol) was added to a solution of methyl 2-(((benzyloxy)carbonyl)amino)-3-(1,3-dimethyl-2,4-dioxo-5-phenyl-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)propanoate (1.52 g, 3.10 mmol) and lithium chloride (0.263 g, 6.20 mmol) in THF (79 ml) and EtOH (39.7 ml) at 0° C. The mixture was stirred at room temperature for 16 hours. The reaction was quenched with saturated NaHCO3(aq) (20 mL), diluted with water (50 ml) and extracted with DCM (3×150 ml). The combined organic extracts were diluted with MeOH (50 ml), dried over sodium sulfate, passed through a hydrophobic frit and evaporated under vacuum to afford the title compound and was a by-product. The resulting mixture was taken forward to the next step without further purification.

reactant | Sodium borohydride | 6.20 mmol, 0.234 g | [BH4-].[Na+]
reactant | methyl 2-(((benzyloxy)carbonyl)amino)-3-(1,3-dimethyl-2,4-dioxo-5-phenyl-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)propanoate | 3.10 mmol, 1.52 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)CN1C=C2N(C(N(C(C2=C1C1=CC=CC=C1)=O)C)=O)C | C26H26N4O6
reactant | lithium chloride | 6.20 mmol, 0.263 g | [Cl-].[Li+]
reactant | THF | 79 ml | C1CCOC1 | C4H8O
solvent | EtOH | 39.7 ml | CCO | C2H6O
product | (8R,10R)-10-(5-Chlorofuran-2-yl)-8-(hydroxymethyl)-1,3-dimethyl-5-phenyl-7,8,9,10-tetrahydropyrazino[1′,2′:1,2]pyrrolo[3,4-d]pyrimidine-2,4(1H,3H)-dione | ClC1=CC=C(O1)[C@@H]1N[C@H](CN2C1=C1N(C(N(C(C1=C2C2=CC=CC=C2)=O)C)=O)C)CO | C22H21ClN4O4
